US06159990
To a well stirred suspension of NaH (1.1 g, 45.8 mmol) in THF (40 mL) at room temperature was added a solution of [1-(3,4-difluorophenyl)-2-hydroxy-ethyl]-carbamic acid-tert-butyl ester (5.0 g, 18.3 mmol) in THF 20 mL via a dropping funnel at room temperature. The resulting suspension was stirred for 3 h and then quenched carefully with 10 mL of water. The biphasic mixture was extracted with 100 mL of Et2O, washed with brine, filtered and the solvent was removed in vacuo. The gummy residue thus obtained was purified by column chromatography over silica gel (Rf =0.15, 3:2 hexane-EtOAc) to obtain (+)-4-(3,4-difluorophenyl)-oxazolidin-2-one as a white flaky solid (2.8 g, 77%). The enantiomers were separated by using Chiralcel OD (4.6×250 mm) using 80% hexane/20% isopropyl alcohol/0.1% Diethylamine as the eluting system under isothermal conditions (U.V. 254 nM). The retention times for the two isomers were 16.19 min and 20.08 min respectively. First isomer:[α]D =+62.9 (c=0.67, acetone); Anal. Calcd. for C9H7NO2F2 : C, 54.28; H, 3.54; N, 7.03. Found: C, 54.16; H, 3.44; N, 6.96. Second isomer:[α]D =-56.9 (c=0.75, acetone); Anal. Calcd. for C9H7NO2F2 : C, 54.28; H, 3.54; N, 7.03. Found: C, 54.31; H, 3.46; N, 6.98. The first isomer was used in the next step.

reactant | NaH | 45.8 mmol, 1.1 g | [H-].[Na+]
reactant | [1-(3,4-difluorophenyl)-2-hydroxy-ethyl]-carbamic acid-tert-butyl ester | 18.3 mmol, 5.0 g | C(C)(C)(C)OC(NC(CO)C1=CC(=C(C=C1)F)F)=O | C13H17F2NO3
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (+)-4-(3,4-difluorophenyl)-oxazolidin-2-one | FC=1C=C(C=CC1F)C1NC(OC1)=O | C9H7F2NO2
